US04420424
(B) Z-Val-Tyr(But)-O-CH(CH3)2
7.9 g (25 mmoles) of H-Tyr(But)-O-CH(CH3)2 hydrochloride and 6.27 g (25 mmoles) of Z-Val-OH are subjected to a condensation reaction analogously to Example 30 C. Yield 11.8 g (92%), melting point 133°-134°, [α]D26 =-25.2° (c=1, methanol).

reactant | H-Tyr(But)-O-CH(CH3)2 hydrochloride | 25 mmoles, 7.9 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)C.Cl
reactant | Z-Val-OH | 25 mmoles, 6.27 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
solvent | methanol | CO | CH4O
product | Z-Val-Tyr(But)-O-CH(CH3)2 | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)C)C(=O)OCC1=CC=CC=C1 | C29H40N2O6
